US07160906B2
2-{3-isopropyloxy-5-[(N-methyl) 4-toluenesulfonylaminomethyl]benzoylamino}-5-pyridine Carboxylic Acid (Route 14)
Standard ester hydrolysis (2M NaOH/THF), as described in Example A, of methyl 2-{3-isopropyloxy-5-[(N-methyl) 4-toluenesulfonylaminomethyl]benzoyl}amino-5-pyridine carboxylate gave the title compound as a pale yellow solid, 1H NMR δ (d6-DMSO): 1.23 (d, 6H), 2.40 (s, 3H), 2.58 (s, 3H), 4.13 (s, 2H), 4.62–4.72 (m, 1H), 7.70 (s, 1H), 7.41–7.52 (m, 4H), 7.73 (d, 2H), 8.31 (s, 2H), 8.84 (s, 1H), 11.16 (s, 1H) m/z 498 (MH)+, 496 (M−H)−.

reactant | NaOH THF | 2M | [OH-].[Na+].C1CCOC1
reactant | methyl 2-{3-isopropyloxy-5-[(N-methyl) 4-toluenesulfonylaminomethyl]benzoyl}amino-5-pyridine carboxylate | C(C)(C)OC=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)OC)C=C(C1)CN(C)S(=O)(=O)C1=CC=C(C=C1)C | C26H29N3O6S
product | 2-{3-isopropyloxy-5-[(N-methyl) 4-toluenesulfonylaminomethyl]benzoylamino}-5-pyridine Carboxylic Acid | C(C)(C)OC=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)O)C=C(C1)CN(C)S(=O)(=O)C1=CC=C(C=C1)C | C25H27N3O6S
